US05420270
To a mechanically-stirred solution of 80 g of methyl 6-bromo-nicotinate in a mixture of 386 mL of tetrahydrofuran and 114 mL of toluene at 0° C. was added drop by drop a 1.5 molar toluene solution of diisobutyl aluminium hydride at a rate such that the temperature never exceeded 10° C. This addition took 50 minutes. 21.59 mL of methyl ethyl ketone was added to the reaction mixture while the temperature rose to 25° C. A solution of 2.58 g of NaOH in 40 mL of water was added to the reaction mixture drop by drop (CAUTION: EXOTHERMIC). 121 mL of water was added with vigorous stirring. After completion of the addition, a white solid appeared. The mixture was filtered through celite and 196 mL of toluene was used to wash the solid and filter. The filtrate was concentrated in vacuo and 48 mL of heptane was added. The mixture was cooled in an ice-salt bath for 1 hour. The precipitated solid was filtered and washed with heptane to give 62.09 g of 3-hydroxymethyl-6-bromopyridine as a solid.

reactant | methyl 6-bromo-nicotinate | 80 g | BrC1=NC=C(C(=O)OC)C=C1 | C7H6BrNO2
reactant | diisobutyl aluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl ethyl ketone | 21.59 mL | C(C)C(=O)C | C4H8O
reactant | NaOH | 2.58 g | [OH-].[Na+]
solvent | tetrahydrofuran | 386 mL | O1CCCC1 | C4H8O
solvent | toluene | 114 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
solvent | water | 121 mL | O | H2O
solvent | toluene | 1.5 molar | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxymethyl-6-bromopyridine | 62.09 g | OCC=1C=NC(=CC1)Br | C6H6BrNO
